*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/R(-55to125[deg])/1.50e-02[uF]/25[V]
* Murata P/N :GCM155R11E153KA40
* Property : C = 1.50e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155R11E153KA40 Port1 Port2
C01 Port1 N01 1.47e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 2.14e-10
R03 N02 N03 6.21e-02
C04 N03 N04 1.91e-06
R04 N03 N04 1.94e+03
C05 N04 N05 2.90e-06
R05 N04 N05 1.98e+02
C06 N05 N06 2.16e-06
R06 N05 N06 3.00e+01
C07 N06 N07 1.79e-06
R07 N06 N07 3.07e+00
C08 N07 N08 1.76e-06
R08 N07 N08 3.21e-01
C09 N08 N09 7.33e-07
R09 N08 N09 9.39e-02
L10 N09 N10 5.03e-11
R10 N09 N10 1.94e-01
C11 N10 N11 1.34e-08
L11 N10 N11 3.19e-11
R11 N10 N11 5.39e-02
C12 N11 Port2 2.65e-12
L12 N11 Port2 1.13e-10
R12 N11 Port2 1.26e+01
.ENDS GCM155R11E153KA40
